US07148311B2
Synthesis of 2-(4′-carboxyphenyl)-6-methoxynaphthalene (CMPN)
In an 100 mL three-necked RB flask equipped with a magnetic bar, a condenser and a nitrogen gas inlet, 2-bromo-6-methoxynaphthalene (4.74 g, 20 mmol), 4-carboxybenzene boronic acid (3.50 g, 20 mmol) and 1-propanol (40 mL) were mixed and stirred at room temperature for approximately 30 min. Palladium acetate (0.014 g, 0.003 equiv., 0.06 mmol), triphenylphosphine (0.047 g, 0.009 equiv., 0.18 mmol), Na2CO3 solution (2M, 12 mL, 1.20 equiv., 24 mmol) and water (8 mL) were added and the mixture was refluxed for 1.5 h. When the mixture was still hot, 25 mL of water was added and the mixture was stirred and cooled to room temperature. The resultant crystals were filtered, washed with water and refluxed with 50 mL of acetic acid for 3–4 h. A white solid was obtained (5.08 g) and recrystallization from acetone showed the title compound as white crystals (4.63 g, 83%). mp 288–289° C. 1H NMR (500 MHz, DMSO) δ 3.90 (s, 3H), 7.2–8.3 (m, 10H), 12.99 (s, 1H). IR (KBr) ν (cm−1): 2500–3000 (COO—H, very broad, m), 1030 (OCH3, s), 1678 (C═O, s). Anal. Calcd for C18H14O3: C, 77.68; H, 5.07. Found: C, 77.56; H, 5.08.

reactant | 2-bromo-6-methoxynaphthalene | 20 mmol, 4.74 g | BrC1=CC2=CC=C(C=C2C=C1)OC | C11H9BrO
reactant | 4-carboxybenzene boronic acid | 20 mmol, 3.50 g | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | triphenylphosphine | 0.18 mmol, 0.047 g, 0.009 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Na2CO3 | 24 mmol, 2M, 12 mL, 1.20 equiv. | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Palladium acetate | 0.06 mmol, 0.014 g, 0.003 equiv. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 25 mL | O | H2O
solvent | water | 8 mL | O | H2O
solvent | 1-propanol | 40 mL | C(CC)O | C3H8O
product | 2-(4′-carboxyphenyl)-6-methoxynaphthalene | C(=O)(O)C1=CC=C(C=C1)C1=CC2=CC=C(C=C2C=C1)OC | C18H14O3
